US07087579B2
To a suspension of 3-(β-D-glucopyranosyloxy)-5-methyl-4-[(4-cyclopropylphenyl)methyl]-1H-pyrazole (33 mg) and cesium carbonate (138 mg) in N,N-dimethylformamide (1 mL) was added 2-bromoethyl acetate (0.035 mL) at 40° C., and the mixture was stirred for 2 hours. To the reaction mixture was added water, and the mixture was purified by solid phase extraction on ODS (washing solvent: distilled water, eluent: methanol). The obtained crude product was dissolved in methanol (1 mL), and to the solution was added 2 mol/L aqueous sodium hydroxide solution (0.04 mL), and the mixture was stirred at room temperature for 30 minutes. The solvent was removed under reduced pressure, and the residue was purified by column chromatography on ODS (developing solvent: methanol/water=3/2) to give 3-(β-D-glucopyranosyloxy)-1-(2-hydroxyethyl)-5-methyl-4-[(4-cyclopropylphenyl)methyl]-1H-pyrazole (8 mg).

reactant | 3-(β-D-glucopyranosyloxy)-5-methyl-4-[(4-cyclopropylphenyl)methyl]-1H-pyrazole | 33 mg | [C@@H]1([C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)OC1=NNC(=C1CC1=CC=C(C=C1)C1CC1)C | C20H26N2O6
reactant | cesium carbonate | 138 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2-bromoethyl acetate | 0.035 mL | C(C)(=O)OCCBr | C4H7BrO2
reactant | sodium hydroxide | 2 mol/L, 0.04 mL | [OH-].[Na+]
solvent | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
solvent | methanol | 1 mL | CO | CH4O
solvent | water | O | H2O
product | 3-(β-D-glucopyranosyloxy)-1-(2-hydroxyethyl)-5-methyl-4-[(4-cyclopropylphenyl)methyl]-1H-pyrazole | 8 mg | [C@@H]1([C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)OC1=NN(C(=C1CC1=CC=C(C=C1)C1CC1)C)CCO | C22H30N2O7
